US05270309
Using the method described in Example 15 with 3-fluoroaniline (8.7 ml) and dimethylacetylene dicarboxylate (5.46 ml) gave 5-fluoro-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (0.022 g), m.p. 285°-286° C. (dec), δ (360 MHz, NAOD) 6.86 (1H, s, 3-H), 7.04 (1H, m, 7-H) and 7.52-7.68 (2H. m, 6-H, 8-H).

reactant | 3-fluoroaniline | 8.7 ml | FC=1C=C(N)C=CC1 | C6H6FN
reactant | dimethylacetylene dicarboxylate | 5.46 ml | COC(=O)C#CC(=O)OC | C6H6O4
product | 5-fluoro-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 0.022 g | FC1=C2C(C=C(NC2=CC=C1)C(=O)O)=O | C10H6FNO3
